US04843082
(C) 1,2,3,4-Tetrahydro-5-(phenylmethyl)-8-quinolinol
To a solution of 702.8 mg (2.99 mmol) of 5-(phenylmethyl)-8-quinolinol in 40 ml of methanol and 8 ml of ethyl acetate under nitrogen was added 200 mg of platinum oxide and the mixture was hydrogenated at 40 PSI for four hours. Filtration through a 0.4 μm polyester membrane filter followed by evaporation yielded 733.8 mg of a dark tan solid. Recrystallization from dichloromethane:hexane and then flash chromatography on 50 g of silica eluted with 3:7 ethyl acetate:petroleum ether provided 534.5 mg: melting point 135°-136° C.

reactant | 5-(phenylmethyl)-8-quinolinol | 2.99 mmol, 702.8 mg | C1(=CC=CC=C1)CC1=C2C=CC=NC2=C(C=C1)O | C16H13NO
solvent | methanol | 40 ml | CO | CH4O
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 200 mg | [Pt]=O
product | 1,2,3,4-Tetrahydro-5-(phenylmethyl)-8-quinolinol | 733.8 mg | C1(=CC=CC=C1)CC1=C2CCCNC2=C(C=C1)O | C16H17NO
